US07488844B2
(iv) (2S)-3-(4-{2-[(2,3-Dimethoxybenzyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid
To a solution of ethyl(2S)-3-(4-{2-[(2,3-dimethoxybenzyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate (1.40 g, 2.55 mmol) in acetonitrile (100 mL) was added aqueous 0.10 M LiOH (50 mL) and the reaction mixture was stirred at room temperature overnight. The solvent volume was reduced in vacuo and the remaining aqueous phase was acidified with 5% HCl and extracted with ethyl acetate (3×100 mL). The combined organic phase was washed with brine (75 mL), dried over Na2SO4, and concentrated in vacuo to afford 1.29 g (98%) of a pale yellow oil.

reactant | ethyl(2S)-3-(4-{2-[(2,3-dimethoxybenzyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 2.55 mmol, 1.40 g | COC1=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CCCCCCC)C=CC=C1OC | C31H45NO7
reactant | LiOH | 0.10 M, 50 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (2S)-3-(4-{2-[(2,3-Dimethoxybenzyl)(heptyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoic acid | 1.29 g, 98% | COC1=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)O)OCC)=O)CCCCCCC)C=CC=C1OC | C29H41NO7
